US08629137B2
3-{1-[6-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-2-methyl-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
60 mg (0.21 mmol) 7-methoxy-3-(2-methyl-piperidin-4-yl)-1,3,4,5-tetrahydro-benzo[d]-[1,3]diazepin-2-one, 60 mg (0.20 mmol) 6-(6-chloropyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one and 0.040 mL (0.29 mmol) TEA were combined in 1 mL DMF and stirred for three days at RT. Then 7-methoxy-3-(2-methyl-piperidin-4-yl)-1,3,4,5-tetrahydrobenzo[d][1,3]diazepin-2-one was added again and the mixture was stirred for 3 h at 80° C. The reaction mixture was purified by preparative HPLC. The fractions containing the product were combined and the solvent was evaporated down by half. The aqueous residue was extracted with DCM, the combined organic phases were dried on sodium sulphate, filtered and the filtrate was evaporated down.

reactant | 7-methoxy-3-(2-methyl-piperidin-4-yl)-1,3,4,5-tetrahydro-benzo[d]-[1,3]diazepin-2-one | 0.21 mmol, 60 mg | COC1=CC2=C(NC(N(CC2)C2CC(NCC2)C)=O)C=C1 | C16H23N3O2
reactant | 6-(6-chloropyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | 0.20 mmol, 60 mg | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C | C14H10ClN3O3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-{1-[6-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-2-methyl-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | CN1C(OC2=C1C(=CC(=C2)C(=O)C2=CC(=NC=N2)N2C(CC(CC2)N2C(NC1=C(CC2)C=C(C=C1)OC)=O)C)C)=O | C30H32N6O5
